US09216980B2
3-(4-Piperidin-1-ylmethyl-phenyl)-6-(1H-imidazol-1-yl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole
A mixture of 3-(4-piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-6-amine (101.1 mg, 0.283 mmol), paraformaldehyde (9.65 μL, 0.283 mmol), glyoxal (13.0 μL, 0.283 mmol) and 0.17M aqueous ammonium chloride (5.0 mL) in 1,4-dioxane (8.4 mL) and water (8.4 mL) was heated at 100° C. for 18 h. The cooled reaction mixture was treated with saturated sodium bicarbonate and diluted with 20% MeOH in DCM and water. The layers were separated, the aqueous phase extracted into 20% MeOH in DCM, and the combined organic phase was dried over sodium sulfate and concentrated in vacuo. The resultant residue was purified by preparative HPLC (0-30% MeCN in water (0.1% formic acid) over 30 min, 35 mL/min) to afford the title compound as a white solid (20 mg, 17%). NMR (DMSO-D6, 400 MHz): 12.37 (s, 1H), 8.96 (s, 2H), 8.82 (s, 1H), 8.67 (s, 1H), 8.49 (s, 1H), 7.94 (s, 1H), 7.76 (d, J=8.1 Hz, 2H), 7.46 (d, J=8.0 Hz, 2H), 7.16 (s, 1H), 3.50 (s, 2H), 2.37 (m, 4H), 1.58-1.46 (m, 4H), 1.41 (m, 2H). LCMS (Method D): RT=6.62 min, M+H+=409

reactant | 3-(4-piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-6-amine | 0.283 mmol, 101.1 mg | N1(CCCCC1)CC1=CC=C(C=C1)C1=CC2=C(NC3=C2C=C(N=C3)N)N=C1 | C22H23N5
reactant | paraformaldehyde | 0.283 mmol, 9.65 μL | C=O | CH2O
reactant | glyoxal | 0.283 mmol, 13.0 μL | C(=O)C=O | C2H2O2
reactant | ammonium chloride | 0.17M, 5.0 mL | [Cl-].[NH4+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | MeOH | CO | CH4O
solvent | 1,4-dioxane | 8.4 mL | O1CCOCC1 | C4H8O2
solvent | water | 8.4 mL | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-(4-Piperidin-1-ylmethyl-phenyl)-6-(1H-imidazol-1-yl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 20 mg, 17% | N1(CCCCC1)CC1=CC=C(C=C1)C1=CC2=C(NC3=C2C=C(N=C3)N3C=NC=C3)N=C1 | C25H24N6
